US08119692B2
4-(4-Fluoro-3-methylphenyl)-4-oxobutanoic acid (Intermediate B3)
To a solution of 3-(1,3-dioxolan-2-yl)-1-(4-fluoro-3-methylphenyl)propan-1-ol (1.6 g, 6.7 mmol) in 15 ml acetone was added Jones reagent (1.5 mL) dropwise at room temperature. The mixture was stirred for 30 min. and then 50 mL of water was added before extracting with DCM (3×40 mL). The combined DCM layers were washed with water (2×20 mL) and dried over Na2SO4. The solvent was evaporated under reduce pressure and the crude product used for the next step without further purification.

reactant | 3-(1,3-dioxolan-2-yl)-1-(4-fluoro-3-methylphenyl)propan-1-ol | 6.7 mmol, 1.6 g | O1C(OCC1)CCC(O)C1=CC(=C(C=C1)F)C | C13H17FO3
reactant | Jones reagent | 1.5 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | 50 mL | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 4-(4-Fluoro-3-methylphenyl)-4-oxobutanoic acid | FC1=C(C=C(C=C1)C(CCC(=O)O)=O)C | C11H11FO3
